US06727264B1
2-METHYL-N-(3-{1-[4-OXO-4-(2-THIENYL)BUTYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE:
Prepared by Procedure K (KI) and Scheme E (K2CO3) using 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide and 4-chloro-1-(2-thienyl)-1-butanone: ESMS m/e: 399.1 (M+H)+.

reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
reactant | 4-chloro-1-(2-thienyl)-1-butanone | ClCCCC(=O)C=1SC=CC1 | C8H9ClOS
product | 2-METHYL-N-(3-{1-[4-OXO-4-(2-THIENYL)BUTYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCC(C=1SC=CC1)=O)C | C23H30N2O2S
